US07763608B2
N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)-1H-indole-5-carboxamide (54)
To a solution of indole-5-carboxylic acid (40 mg, 0.25 mmol) and triethylamine (0.150 mL, 1.08 mmol) in DMF (2 mL), BOP (135 mg, 0.30 mmol) was added. After 5 min of stirring, 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one hydrochloride (53 mg, 0.18 mmol) was added. The mixture was stirred at room temperature overnight. It was then purified by HPLC to give the titled compound (30 mg). MS 410.2 (M+H).

reactant | indole-5-carboxylic acid | 0.25 mmol, 40 mg | N1C=CC2=CC(=CC=C12)C(=O)O | C9H7NO2
reactant | triethylamine | 1.08 mmol, 0.150 mL | C(C)N(CC)CC | C6H15N
reactant | BOP | 0.30 mmol, 135 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 1-(4-(4-(aminomethyl)-1H-imidazol-1-yl)phenyl)pyridin-2(1H)-one hydrochloride | 0.18 mmol, 53 mg | Cl.NCC=1N=CN(C1)C1=CC=C(C=C1)N1C(C=CC=C1)=O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | N-((1-(4-(2-oxopyridin-1(2H)-yl)phenyl)-1H-imidazol-4-yl)methyl)-1H-indole-5-carboxamide | 30 mg | O=C1N(C=CC=C1)C1=CC=C(C=C1)N1C=NC(=C1)CNC(=O)C=1C=C2C=CNC2=CC1 | C24H19N5O2
